US07700637B2
A solution of sodium 4-hydroxybenzenesulfonate dihydrate (15 g, 64.6 mmol) in 64.66 mL of 1 N aqueous NaOH is heated at reflux for 1 h, cooled and concentrated under vacuum. Toluene is added, and the mixture is again concentrated under vacuum. This process of toluene addition followed by concentration under vacuum is repeated twice more to remove water. The resulting white solid is dried in a vacuum oven at 60° C. overnight to give 4-hydroxybenzenesulfonic acid disodium salt.

reactant | sodium 4-hydroxybenzenesulfonate dihydrate | 64.6 mmol, 15 g | O.O.OC1=CC=C(C=C1)S(=O)(=O)[O-].[Na+]
solvent | NaOH | 1 N, 64.66 mL | [OH-].[Na+]
product | 4-hydroxybenzenesulfonic acid disodium salt | [Na+].[Na+].OC1=CC=C(C=C1)S(=O)(=O)[O-].OC1=CC=C(C=C1)S(=O)(=O)[O-] | InChI=1S/2C6H6O4S.2Na/c2*7-5-1-3-6(4-2-5)11(8,9)10;;/h2*1-4,7H,(H,8,9,10);;/q;;2*+1/p-2
